US08975400B2
7-((3-fluoro-4-((2-(trifluoromethyl)pyridin-4-yl)oxy)benzyl)oxy)-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one
Prepared in a manner similar to that described for E1 using sodium hydride (9.37 mg, 0.234 mmol), (3-fluoro-4-((2-(trifluoromethyl)pyridin-4-yl)oxy)phenyl)methanol (44.9 mg, 0.156 mmol) in THF (8 mL) and 7-chloro-1-methyl-2,3-dihydroimidaz-o[1,2-c]pyrimidin-5(1H)-one (29 mg, 0.156 mmol).

reactant | sodium hydride | 0.234 mmol, 9.37 mg | [H-].[Na+]
reactant | (3-fluoro-4-((2-(trifluoromethyl)pyridin-4-yl)oxy)phenyl)methanol | 0.156 mmol, 44.9 mg | FC=1C=C(C=CC1OC1=CC(=NC=C1)C(F)(F)F)CO | C13H9F4NO2
reactant | 7-chloro-1-methyl-2,3-dihydroimidaz-o[1,2-c]pyrimidin-5(1H)-one | 0.156 mmol, 29 mg | ClC=1C=C2N(C(N1)=O)CCN2C | C7H8ClN3O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 7-((3-fluoro-4-((2-(trifluoromethyl)pyridin-4-yl)oxy)benzyl)oxy)-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one | FC=1C=C(COC=2C=C3N(C(N2)=O)CCN3C)C=CC1OC1=CC(=NC=C1)C(F)(F)F | C20H16F4N4O3
